US06919352B2
To a solution of (2E)-1-[7-(cyclopentylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one (100 mg, 0.25 mmol) in N,N-dimethylformamide (5 mL) was added N-(3-benzoylphenyl)guanidinium nitrat (223 mg, 0.74 mmol) and potassium carbonate (102 mg, 0.74 mmol). The suspension was heated at 140° C. (bath temperature) for 18 hours. The mixture was cooled to room temperature, ether was added followed by water. The organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics were dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (4:1 to 2:1 hexanes-ethyl acetate) provided [3-({4-[7-(Cyclopentylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}amino)phenyl](phenyl)methanone (90 mg, 76%) as a yellow solid. 1H NMR (CDCl3): δ 8.10 (d, 1 H), 8.04 (s, 1 H), 7.95 (d, 1 H), 7.81 (d, 2 H), 7.64 (d, 1 H), 7.57 (d, 2 H), 7.53-7.38 (m, 6 H), 7.22 (t, 1 H), 6.98 (d, 2 H), 6.53 (d, 1 H), 6.04-5.99 (m, 2 H); 4.00 (m, 1 H), 3.86 (s, 3 H), 2.12 (m, 2 H), 1.81-1.67 (m, 6 H); MS m/z 581 (M+1).

reactant | (2E)-1-[7-(cyclopentylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one | 0.25 mmol, 100 mg | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C(\C=C\N(C)C)=O)C2=CC=C(C=C2)OC | C24H28N4O2
reactant | N-(3-benzoylphenyl)guanidinium nitrat | 0.74 mmol, 223 mg | [N+](=O)([O-])[O-].C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)NC(=[NH2+])N
reactant | potassium carbonate | 0.74 mmol, 102 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ether | CCOCC | C4H10O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [3-({4-[7-(Cyclopentylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}amino)phenyl](phenyl)methanone | 90 mg, 76% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC=2C=C(C=CC2)C(=O)C2=CC=CC=C2)C2=CC=C(C=C2)OC | C36H32N6O2
